US06472393B1
Propane-1-sulfonic acid [2-(4-benzyloxy-5-methoxy-2-nitro-phenyl)-2-(4-cyano-phenylamino)-ethyl]-amide (0.250 g) was dissolved in ethanol (10 ml) and added to Pt/C (5%). The reaction was placed under a hydrogen atmosphere and stirred vigorously for 3 hours. The catalyst was filtered off and the product chromatographed (hexanes:ethyl acetate 1:2) to yield 133 mg of Propane-1-sulfonic acid [2-(2-amino-4-benzyloxy-5-methoxy-phenyl)-2-(4-cyano-phenylamino)-ethyl]-amide. 1HNMR(CDCl3): 7.3-7.45 (m, 7H), 6.71 (s, 1H), 6.52 (d, 2H), 6.3 (s, 1H), 5.33 (2, 1H), 5.08 (s, 2H), 5.0 (t, 1H), 4.42 (q, 1H), 3.75 (s, 3H), 3.70 (bs, 2H), 3.45 (t, 2H), 2.97 (m, 2H), 1.80 (m, 2H), 1.03 (t, 3H).

reactant | Propane-1-sulfonic acid [2-(4-benzyloxy-5-methoxy-2-nitro-phenyl)-2-(4-cyano-phenylamino)-ethyl]-amide | 0.250 g | C(C1=CC=CC=C1)OC1=CC(=C(C=C1OC)C(CNS(=O)(=O)CCC)NC1=CC=C(C=C1)C#N)[N+](=O)[O-] | C26H28N4O6S
solvent | ethanol | 10 ml | C(C)O | C2H6O
catalyst | Pt/C | [Pt] | Pt
product | Propane-1-sulfonic acid [2-(2-amino-4-benzyloxy-5-methoxy-phenyl)-2-(4-cyano-phenylamino)-ethyl]-amide | 133 mg | NC1=C(C=C(C(=C1)OCC1=CC=CC=C1)OC)C(CNS(=O)(=O)CCC)NC1=CC=C(C=C1)C#N | C26H30N4O4S
